US09422281B2
A 250-mL round-bottom flask was charged with 3,3-difluorocyclobutan-1-ol (2.41 g, 22.3 mmol), 1,2-dichloroethane (50 mL), N,N-diisopropylethyl amine (3.5 mL, 20 mmol) and triphosgene (1.33 g, 4.48 mmol). The resulting solution stirred 30 minutes at 50° C., and then a solution of (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one (600 mg, 2.23 mmol) and N,N-diisopropylethyl amine (3.5 mL, 20 mmol) in 1,2-dichloroethane (30 mL) was added. The resulting solution stirred overnight at 50° C. After cooling to room temperature, the reaction mixture was concentrated under vacuum. The residue was dissolved in ethyl acetate (50 mL), washed with saturated sodium carbonate solution (2×50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 2:3, ethyl acetate/petroleum ether) to afford 3,3-difluorocyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (800 mg, 89%) as a brown solid. MS (ESI, pos. ion) m/z 404, 405 [M+1]+.

reactant | 3,3-difluorocyclobutan-1-ol | 22.3 mmol, 2.41 g | FC1(CC(C1)O)F | C4H6F2O
reactant | N,N-diisopropylethyl amine | 20 mmol, 3.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphosgene | 4.48 mmol, 1.33 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)ethan-1-one | 2.23 mmol, 600 mg | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C)=O)C | C11H13BrN2O
reactant | N,N-diisopropylethyl amine | 20 mmol, 3.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
product | 3,3-difluorocyclobutyl (S)-4-acetyl-7-bromo-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 800 mg, 89% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)Br)C(=O)OC1CC(C1)(F)F)C | C16H17BrF2N2O3
